US07750208B2
2. Northern Hybridization Analysis of Oncidium Aureusidin Synthase Gene
20 μg of total Oncidium RNA was glyoxylated at 50° C. for one hour, with a total reaction volume of 50 μL, comprising 10 mM sodium phosphate buffer (pH 7.0), 1 M deionized glyoxal, and 50% dimethyl sulfate. At the end of reaction, 10 μL 1×RNA loading buffer dye [containing 50% glycerol, 10 mM sodium phosphate (pH 7.0), 0.25% bromophenol blue] was added and electrophoresis was carried out on 1% agar gel. Then, the gel was treated with 50 mM sodium hydroxide for 30 minutes, and then with 200 mM sodium acetate for 30 minutes. The gel was then soaked in 1×TBE buffer [consisting of 90 mM Tris base, 2 mM EDTA (pH 8.0), and 89 mM boric acid] containing 1 μg/mL of ethidium bromide under shaking for 30 minutes. RNA loaded on the thus-treated gel was blotted on Hybond N membrane by capillary method. After 16-24 hours, its was treated with 5×SSPE at 65° C. for 5 minutes, and then dried in a vacuum oven at 80° C. for one hour. The membrane was transferred in a pre-hybridization solution (consisting of 5×SSPE, 5×BFP, 0.5% SDS, 50% formamide, 100 μg/mL salmon sperm DNA), and pre-hybridization reaction was carried out at 42° C. for more than 2 hours. Thereafter, the membrane was transferred in hybridization solution (consisting of 5×SSPE, 5×BFP, 0.5% SDS, 200 μg/mL salmon sperm DNA, 10% Dextran sulfate), where a hybridization reaction was performed at 65° C. for 16-18 hours. At the end of the reaction, it was washed twice with 2×SSPE and 0.1% SDS at room temperature for 15 minutes. The blotted membrane was then washed again with 1×SSPE and 0.1% SDS at 65° C. for 15 minutes. It was then subjected to exposure by pressing against an X-ray film. The result was shown in FIG. 1, and was indicated that the gene was expressed mainly at floral organ.

reactant | sodium phosphate | 10 mM, pH 7.0 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium phosphate | 10 mM, pH 7.0 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | bromophenol blue | C=1C=CC2=C(C1)C(OS2(=O)=O)(C=3C=C(C(=C(C3)Br)O)Br)C=4C=C(C(=C(C4)Br)O)Br | C19H10Br4O5S
reactant | sodium hydroxide | 50 mM | [OH-].[Na+]
reactant | sodium acetate | 200 mM | C(C)(=O)[O-].[Na+]
reactant | TBE buffer | 90 mM, pH 8.0 | B(O)(O)O.C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O.C(C(CO)(CO)N)O
reactant | ethidium bromide | CC[N+]1=C2C=C(C=CC2=C3C=CC(=CC3=C1C=4C=CC=CC4)N)N.[Br-]
reactant | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
solvent | glycerol | OCC(O)CO | C3H8O3
product | Aureusidin | C1=CC(=C(C=C1/C=C\2/C(=O)C=3C(=CC(=CC3O2)O)O)O)O | C15H10O6
